US06995151B2
4-Methoxycarbonylmethoxy-isophthalic acid dibenzyl ester
In DMF (15 mL) was stirred 4-hydroxy-1,3-benzenedicarboxylate dibenzyl ester (500 mg, 1.4 mmol) and potassium carbonate (276 mg, 2.0 mmol). To this was added methylbromoacetate (230 mg, 1.5 mmol) and the solution warmed to 50° C. and stirred 120 hours. The mixture filtered free of insoluble material and the DMF solution evaporated at reduced pressure to give a red oil. The oil was dissolved in ethyl acetate (50 mL) and washed successively with 10% citric acid (50 ML), saturated sodium bicarbonate solution (50 mL), and brine (50 mL). The organic phase dried over magnesium sulfate and evaporated at reduced pressure to give an oil. The oil was purified by MPLC (90 g silica gel, 2:1[hexane:ethyl acetate]) to give 330 mg (54%) of a clear oil. MS: M+1=435.2.

reactant | 4-hydroxy-1,3-benzenedicarboxylate dibenzyl ester | 1.4 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)C1=CC(=C(C=C1)O)C(=O)OCC1=CC=CC=C1 | C22H18O5
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methylbromoacetate | 1.5 mmol, 230 mg | COC(CBr)=O | C3H5BrO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-Methoxycarbonylmethoxy-isophthalic acid dibenzyl ester | 330 mg, 54% | C(C1=CC=CC=C1)OC(C1=CC(C(=O)OCC2=CC=CC=C2)=C(C=C1)OCC(=O)OC)=O | C25H22O7
